US08809267B2
1-(2-Amino-3-chloro-4-methoxyphenyl)ethanone (prepared according to Raboisson, P. J.-M. B., et al., WO2007014926, p 78; 70.7 g, 354 mmol) was stirred in 48% aq. HBr (500 mL) at 110° C. for 72 h. After the mixture was cooled to 0° C. with stirring, the solids were filtered and washed with water. The resulting solids were triturated with a saturated NaHCO3 solution (˜350 mL), filtered, washed with water, and dried under vacuum to give 40 g (61% yield) of 1-(2-amino-3-chloro-4-hydroxyphenyl)ethanone as a dark brown solid.

reactant | 1-(2-Amino-3-chloro-4-methoxyphenyl)ethanone | 354 mmol, 70.7 g | NC1=C(C=CC(=C1Cl)OC)C(C)=O | C9H10ClNO2
solvent | HBr | 500 mL | Br | BrH
product | 1-(2-amino-3-chloro-4-hydroxyphenyl)ethanone | 40 g, 61% yield | NC1=C(C=CC(=C1Cl)O)C(C)=O | C8H8ClNO2
